US07612103B2
2.91 g of KSCN in 3 ml of H2O are added to a mixture of 5.96 g of 3,4-epoxy-N—(N-BOC-valyl-1,2,5,6-tetrahydropyridine in 10 ml of absolute EtOH and the mixture obtained is stirred for 72 hours at RT. The mixture obtained is subjected to aqueous extraction, the solvent of the organic phase obtained is evaporated and the evaporation residue is subjeted to chromatography. 3,4-Epithio-N(N-BOC-(R)-valyl)-piperidine is obtained. Melting point: 69.71°

reactant | KSCN | 2.91 g | C(#N)[S-].[K+]
reactant | N-BOC-valyl-1,2,5,6-tetrahydropyridine | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)N1CC=CCC1 | C15H26N2O3
solvent | H2O | 3 ml | O | H2O
solvent | EtOH | 10 ml | CCO | C2H6O
product | 3,4-Epithio-N(N-BOC-(R)-valyl)-piperidine | S1C2CN(CCC21)C([C@H](NC(=O)OC(C)(C)C)C(C)C)=O | C15H26N2O3S
